US08791090B2
[Step 1] Reactions and treatments were carried out in the same manner as in Example 118, using 122.8 mg of (2S,4R)-1-acetyl-2-methyl-4-[(4-morpholinophenyl)amino]-1,2,3,4-tetrahydroquinoline-6-carboxylic acid instead of (2S,4R)-1-acetyl-2-methyl-4-(4-morpholinophenoxy)-1,2,3,4-tetrahydroquinoline-6-carboxylic acid, and using aqueous ammonia instead of monomethylamine. Thus, 140.4 mg (100%) of (2S,4R)-1-acetyl-2-methyl-4-[(4-morpholinophenyl)amino]-1,2,3,4-tetrahydroquinoline-6-carboxamide was obtained as a pale yellow solid.

reactant | (2S,4R)-1-acetyl-2-methyl-4-[(4-morpholinophenyl)amino]-1,2,3,4-tetrahydroquinoline-6-carboxylic acid | 122.8 mg | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C(=O)O)NC1=CC=C(C=C1)N1CCOCC1)C | C23H27N3O4
reactant | ammonia | N | H3N
product | (2S,4R)-1-acetyl-2-methyl-4-[(4-morpholinophenyl)amino]-1,2,3,4-tetrahydroquinoline-6-carboxamide | 140.4 mg, 100% | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C(=O)N)NC1=CC=C(C=C1)N1CCOCC1)C | C23H28N4O3
